US07479558B2
3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)benzoic acid
To a solution of 5-chloro-1-(2,6-difluorophenyl)-7-{[2-(dimethylamino)-ethyl]amino}-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (100 mg, 0.26 mmol) in dioxane (9 mL)/water (3 mL) were added potassium carbonate (217 mg, 1.57 mmol), tetrakis(triphenylphosphine)palladium(0) (15 mg, 0.013 mmol) and 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid (65 mg, 0.39 mmol). The reaction mixture was bubbled with N2 for 5 mins, then microwaved at about 150° C. for about 30 mins. The reaction mixture was concentrated. To the concentrated mixture were added DMSO (2 mL), H2O (0.5 mL) and AcOH (0.05 mL). Separation via a HPLC then provided the title compound as a white solid (120 mg, 98%). LC-MS m/z 469 (M+H)+.

reactant | 5-chloro-1-(2,6-difluorophenyl)-7-{[2-(dimethylamino)-ethyl]amino}-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 0.26 mmol, 100 mg | ClC1=C2C(=NC(=N1)NCCN(C)C)N(C(NC2)=O)C2=C(C=CC=C2F)F | C16H17ClF2N6O
reactant | water | 3 mL | O | H2O
reactant | potassium carbonate | 1.57 mmol, 217 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid | 0.39 mmol, 65 mg | CC1(OB(OC1(C)C)C=1C=C(C(=O)O)C=CC1)C | C13H17BO4
solvent | dioxane | 9 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.013 mmol, 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)benzoic acid | 120 mg, 98% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)O)C=CC2)NCCN(C)C)=O | C23H22F2N6O3
